US07910740B2
2-(4-Fluoro-phenyl)-N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-acetamide
To a solution of 96 mg (0.2 mmol) [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride and of 35 mg (0.22 mmol) 4-fluorophenylacetic acid in DMF (2 ml) 121 mg (1.2 mmol) N-methyl morpholine and 114 mg (0.3 mmol) HBTU (O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate) were added. The reaction was stirred over night at room temperature. The reaction was diluted with 2N aqueous NaOH solution (6 ml) and extracted twice with ethyl acetate. The combined organic layers were dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 95 mg (94%) of 2-(4-fluoro-phenyl)-N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-acetamide as a yellow solid. MS ISP (m/e): 508.0 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm) 10.38 (s, 1H), 8.30 (d, 1H), 7.96 (d, 1H), 7.89 (s, 1H), 7.65 (s, 1H), 7.30-7.20 (m, 3H), 7.15-6.97 (m, 4H), 6.54 (s, 1H), 4.60 (m, 1H), 3.80 (s, 3H), 3.45 (m, 2H), 2.14 (s, 3H), 1.69-1.48 (m, 3H), 0.92 (d, 3H), 0.85 (d, 3H).

reactant | [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride | 0.2 mmol, 96 mg | Cl.Cl.Cl.N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 4-fluorophenylacetic acid | 0.22 mmol, 35 mg | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | DMF | 1.2 mmol, 2 ml, 121 mg | CN(C)C=O | C3H7NO
reactant | HBTU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NaOH | 2N, 6 ml | [OH-].[Na+]
product | 2-(4-Fluoro-phenyl)-N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-acetamide | FC1=CC=C(C=C1)CC(=O)N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C27H30FN5O2S
